US07674809B2
38b) 2-(2-fluorophenyl)-5-nitrobenzimidazole
Prepared from 4-nitrophenylenediamine and 2-fluorobenzoic acid, in a manner similar to that of Example 31b. Yield: 15%; Rf (7/3 toluene/ethyl acetate): 0.55; IR (KBr): 2996, 1625, 1520, 1479, 1340 cm−1; 1H-NMR (d6-DMSO) 8.5-8.0 (m, 3H); 7.2-7.9 (m, 4H).

reactant | 4-nitrophenylenediamine | [N+](=O)([O-])C1=CC(=C(C=C1)N)N | C6H7N3O2
reactant | 2-fluorobenzoic acid | FC1=C(C(=O)O)C=CC=C1 | C7H5FO2
reactant | KBr | [K+].[Br-]
solvent | toluene ethyl acetate | C1(=CC=CC=C1)C.C(C)(=O)OCC
product | 2-(2-fluorophenyl)-5-nitrobenzimidazole | Yield: 15% | FC1=C(C=CC=C1)C=1NC2=C(N1)C=CC(=C2)[N+](=O)[O-] | C13H8FN3O2
